US05109012
Diaminomaleonitrile (26.2 g]was added in portions to a solution containing cyanogen chloride (14.9 g) in tetrahydrofuran (200 ml). The mixture was then warmed to room temperature and finally heated under reflux for 1 hour. The resulting brown solid was collected by filtration and washed with a solution of sodium acetate. The remaining solid was dissolved in a sodium bicarbonate solution and treated with charcoal, filtered and acidified to give 2-amino-4,5-dicyanoimidazole, m.p. 276°-278°.

reactant | Diaminomaleonitrile | N/C(=C(/C#N)\N)/C#N | C4H4N4
reactant | cyanogen chloride | 14.9 g | N#CCl | CClN
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-amino-4,5-dicyanoimidazole | NC=1NC(=C(N1)C#N)C#N | C5H3N5
